2158-10-03 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2158-10-3**] 12:52 AM
   Spoke with HCP [**Name (NI) 412**] (daughter) who reject surugery or any heroic
   measures, lines and pressure support okay last night. pt appears
   severly demented and agitated.  NG tube in stomach per radiology
   resident.
   bolused with NS 500 cc x2.
   Family meeting this morning. Daughter again does not want any heroic
   measures. No lines, no pressors, no surgery. Fluids and antibiotics are
   okay. Patient already DNR/DNI.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-10-3**] 01:44 AM
   Vancomycin - [**2158-10-3**] 01:53 AM
   Metronidazole - [**2158-10-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2158-10-3**] 01:45 AM
   Haloperidol (Haldol) - [**2158-10-3**] 02:25 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt physically moves your hand away when you try to
   palpate her abdomen
 appears to be painful although hard to assess
   secondary to patient baseline mental status
   Flowsheet Data as of  [**2158-10-3**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 89 (89 - 112) bpm
   BP: 125/52(61) {101/46(59) - 149/65(93)} mmHg
   RR: 24 (21 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 62 kg
   Height: 64 Inch
             Total In:
             4,418 mL
   PO:
             TF:
   IVF:
   1,558 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    380 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,038 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   9.8 g/dL
   110 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.3 mEq/L
   24 mg/dL
   112 mEq/L
   141 mEq/L
   29.0 %
   25.5 K/uL
         [image002.jpg]
                             [**2158-10-3**]  05:14 AM
   WBC
   25.5
   Hct
   29.0
   Plt
   238
   Cr
   0.8
   Glucose
   110
   Other labs: PT / PTT / INR:17.1/27.5/1.5, Ca++:7.7 mg/dL, Mg++:1.3
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN:  80 y.o. F diagnosed with C. difficile colitis 1 day
   PTA, who presents with fevers, leukocytosis, abdominal pain, and
   increasing abdominal distension, concerning for toxic megacolon and
   sepsis.  Patient is currently DNR/DNI and HCP refusing heroic measures.
   No lines, no pressors, no surgery. IV fluids and antibiotics okay.
   .
   # Sepsis: Initially, patient met SIRS criteria with fevers,
   leukocytosis and tachycardia. Source of infection likely GI from C.
   difficile infection.  SBPs currently in 140s.  Pt was fluid
   responsive.  Reassuringly, lactate 1.3.
   - no lines as per family request, continue IV fluids (will start LR
   boluses) and IV antibiotics
   - surgery was planning to operate, family was not interested
   - loops of bowel distended to > 10 cm, concerning for possible
   - no pressorts
   - continue po vancomycin, IV flagyl, Zosyn for C. difficile and
   intraabdominal source of infection
   - follow up blood cultures
   - follow-up UA, urine cultures, and stool for c. difficle as well as
   stool culture
   - trend WBC count, fever curve
   - transfuse to keep Hct > 30
   .
   # Toxic megacolon: Meets clinical criteria with radiographic evidence
   on CXR/AXR, fever, leukocytosis, tachycardia, and hypotension.  [**Name (NI) 160**]
   HCP declining surgical intervention.
   - patient declining surgery, can continue abdominal XRs
   - monitor serial exams
   - IV flagyl, po vancomycin, and Zosyn for intraabdominal source and
   known C. difficile infection as above
   - NGT to low intermittent suction
   - IVFs
   .
   # UTI: + UA
   - f/u urine cx
   - Zosyn to cover GNR
   # Alzheimer's Dementia: Unknown baseline.
   - haldol prn
   # Hypertension: Currently SBPs in in 140s and normotensive.
   - hold antihypertensives for now as pt critically ill and was
   hypotensive in ED
   # FEN: IVFs / replete lytes / NPO except meds
   .
   # ACCESS: Midline in L A-C (17 gauge), 20 gauge PIV, no central venous
   line or a-lines
   .
   # PPX: Heparin SQ / no bowel regimen / PPI
   .
   # COMM:  HCP: [**Name (NI) 412**] [**Name (NI) 413**] [**Telephone/Fax (3) 414**]
   .
   # CODE: DNR/DNI (Being faxed from Radius, but confirmed by HCP)
   .
   # DISPO: pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2158-10-3**] 12:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2158-10-04 07:08:00 Physician Resident Progress Note
Chief Complaint: toxic megacolon with likely sepsis
   24 Hour Events:
   overnight, patient continued to look undercomfortable, requiring larger
   boluses of IV morphine for comfort. Spoke with HCP daughter about plans
   for care. Daughter said that goals were to make patient comfortable.
   Discussed with daughter that possibility of death was imminent.
   Daughter understands. states that her brother and her were going to try
   to come in early this morning. Patient looking for comfortable now.
   Pressures have begun to drop somewhat. bolused aggressively yesterday,
   with continued low UOP. suspect that given daughter's goal of care
   aggressive bolusing is no longer warranted.  PICC came out this
   morning. As per nursing did not draw AM labs, think okay for now. will
   discuss with family this AM goals for care.
 EKG - At [**2158-10-3**] 09:35 AM
   Patient unable to provide history: Unresponsive, alzheimer's dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-10-4**] 12:52 AM
   Vancomycin - [**2158-10-4**] 12:53 AM
   Metronidazole - [**2158-10-4**] 04:54 AM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-10-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-10-3**] 04:19 PM
   Haloperidol (Haldol) - [**2158-10-3**] 07:45 PM
   Morphine Sulfate - [**2158-10-3**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-10-4**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.9
C (96.7
   HR: 80 (75 - 108) bpm
   BP: 70/33(41) {69/27(38) - 152/131(134)} mmHg
   RR: 13 (9 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 62 kg
   Height: 64 Inch
             Total In:
                                                                  9,539 mL
                                                                    421 mL
   PO:
             TF:
   IVF:
                                                                  6,559 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                    838 mL
                                                                     60 mL
   Urine:
                                                                    458 mL
                                                                     60 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  8,701 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   262 K/uL
   9.7 g/dL
   93 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.1 mEq/L
   22 mg/dL
   114 mEq/L
   142 mEq/L
   29.0 %
   25.4 K/uL
        [image002.jpg]
                             [**2158-10-3**]  05:14 AM
                             [**2158-10-3**]  02:54 PM
   WBC
   25.5
   25.4
   Hct
   29.0
   29.0
   Plt
   238
   262
   Cr
   0.8
   0.8
   Glucose
   110
   93
   Other labs: PT / PTT / INR:17.1/27.5/1.5, Ca++:8.3 mg/dL, Mg++:2.6
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN:  80 y.o. F diagnosed with C. difficile colitis 1 day
   PTA, who presents with fevers, leukocytosis, abdominal pain, and
   increasing abdominal distension, concerning for toxic megacolon and
   sepsis.  Patient is currently DNR/DNI and HCP refusing heroic measures.
   No lines, no pressors, no surgery. IV fluids and antibiotics okay.
   .
   # Sepsis/Toxic megacolon: Initially, on admission met SIRS criteria
   with fevers, leukocytosis and tachycardia. Source of infection likely
   GI from C. difficile infection.  radiographic evidence on CXR/AXR,
   fever, leukocytosis, tachycardia, and hypotension.  [**Name (NI) 160**] HCP declining
   surgical intervention.  Pt was fluid responsive.  Reassuringly, lactate
   1.3.
   - no lines as per family request, patient got aggressive IV hydration
   yesterday with over 2L of LR, 1 L NS as well as maintence fluids still
   with decreased UOP
   - surgery was planning to operate, family declined, patient is now
   almost officially CMO
   - patient now hypotensive, however appears much more comfortable witih
   morphine driop
   - loops of bowel distended to > 10 cm on admission, concerning for
   possible impending colonic rupture
   - repeat abdominal x-ray yesterday with continued dilated loops of
   bowels (11 cm) without evidence of free air
   - no pressorts
   - continue po vancomycin, IV flagyl, IV Zosyn for C. difficile and
   intraabdominal source of infection
   - follow up blood cultures
   - follow-up UA, urine cultures, and stool for c. difficle as well as
   stool culture
   - trend WBC count, fever curve
   - transfuse to keep Hct > 30
   - monitor serial exams
   - IV flagyl, po vancomycin, and Zosyn for intraabdominal source and
   known C. difficile infection as above
   - NGT to low intermittent suction
   - IVFs
   # UTI: + UA
   - f/u urine cx
   - Zosyn to cover GNR
   # Alzheimer's Dementia: Unknown baseline.
   - no more haldol in the context of using
   # Hypertension: currently hypotensive
   -holding all anti-hypertensives
   - fluid resuscitation
   # FEN: IVFs at maintence 150 LR for 2 L / replete lytes / NPO except
   meds
   .
   # ACCESS: 20 gauge PIV, no central venous line or a-lines
   .
   # PPX: Heparin SQ / no bowel regimen / PPI, would consider d/c heparin
   subQ if patient officially becomes CMO
   .
   # COMM:  HCP: [**Name (NI) 412**] [**Name (NI) 413**] [**Telephone/Fax (3) 414**]
   .
   # CODE: DNR/DNI (Being faxed from Radius, but confirmed by HCP)
   .
   # DISPO: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2158-10-3**] 12:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU care

2158-10-04 10:03:00 Physician Attending Progress Note
Chief Complaint: Toxic megacolon
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 year old female with history of alzheimer's dementia who presented
   with C. dif and toxic megacolon who is DNR/DNI/no surgery or invasive
   procedures.
   Overnight, increased pain control and
   24 Hour Events:
 EKG - At [**2158-10-3**] 09:35 AM
   History obtained from Patient
   Patient unable to provide history: altered mental status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-10-4**] 12:53 AM
   Metronidazole - [**2158-10-4**] 04:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-10-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-10-3**] 04:19 PM
   Haloperidol (Haldol) - [**2158-10-3**] 07:45 PM
   Morphine Sulfate - [**2158-10-3**] 09:30 PM
   Pantoprazole (Protonix) - [**2158-10-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2158-10-4**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 79 (75 - 108) bpm
   BP: 76/33(45) {69/27(38) - 152/131(134)} mmHg
   RR: 12 (9 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 62 kg
   Height: 64 Inch
             Total In:
                                                                  9,539 mL
                                                                    974 mL
   PO:
             TF:
   IVF:
                                                                  6,559 mL
                                                                    974 mL
   Blood products:
   Total out:
                                                                    838 mL
                                                                    125 mL
   Urine:
                                                                    458 mL
                                                                    125 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  8,701 mL
                                                                    849 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   General: depressed mental status, overall appears comfortable
   Abd: Distended, diffusely tender
   Labs / Radiology
   9.7 g/dL
   262 K/uL
   93 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.1 mEq/L
   22 mg/dL
   114 mEq/L
   142 mEq/L
   29.0 %
   25.4 K/uL
        [image002.jpg]
                             [**2158-10-3**]  05:14 AM
                             [**2158-10-3**]  02:54 PM
   WBC
   25.5
   25.4
   Hct
   29.0
   29.0
   Plt
   238
   262
   Cr
   0.8
   0.8
   Glucose
   110
   93
   Other labs: PT / PTT / INR:17.1/27.5/1.5, Ca++:8.3 mg/dL, Mg++:2.6
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Despite fluids and antibiotics, patient abdominal process (c. dif and
   megacolon) progressed overnight.  Discussed overall condition with the
   family and the decision was made to make patient comfort care only.
   Thus, will continue with pain control and comfort care as needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2158-10-3**] 12:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : Comfort care
 ICU for now
   Total time spent: 30 minutes